US07211573B2
f) (6R,7R or 6S,7S)-7-Amino-6-benzyl-2-fluoro-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one, entity A
The title compound was prepared by hydrogenation of (+)-(6R,7R or 6S,7S)-6-benzyl-7-dibenzylamino-2-fluoro-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one in methanol with Pd/C (10%), MS m/e (%): 287.1 (M+H+, 100).

reactant | 6-benzyl-7-dibenzylamino-2-fluoro-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one | C(C1=CC=CC=C1)C1OC2=C(NC(C1N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O)C=C(C=C2)F | C30H27FN2O2
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 7-Amino-6-benzyl-2-fluoro-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one | NC1C(OC2=C(NC1=O)C=C(C=C2)F)CC2=CC=CC=C2 | C16H15FN2O2
